US05559137
3-(4-Fluorophenyl)-1-(4-methylsulfinylphenyl)-4-(4-pyridyl)-5H-pyrazole
5-Amino-3-(4-fluorophenyl)-1-(methylthiophenyl)-4-(4-pyridyl)pyrazole--The title compound is prepared following the procedure of Smith, P. A. S. et al., J. Org. Chem., 1970, 35 (7), 2215 except using 4-(methylthio)phenylhydrazine hydrochloide and 3-(4-fluorophenyl)-3-oxo-2-(pyridin-4-yl)propanenitrile.

reactant | 5-Amino-3-(4-fluorophenyl)-1-(methylthiophenyl)-4-(4-pyridyl)pyrazole | NC1=C(C(=NN1C=1SC=CC1C)C1=CC=C(C=C1)F)C1=CC=NC=C1 | C19H15FN4S
reactant | 4-(methylthio)phenylhydrazine | CSC1=CC=C(C=C1)NN | C7H10N2S
reactant | 3-(4-fluorophenyl)-3-oxo-2-(pyridin-4-yl)propanenitrile | FC1=CC=C(C=C1)C(C(C#N)C1=CC=NC=C1)=O | C14H9FN2O
product | 3-(4-Fluorophenyl)-1-(4-methylsulfinylphenyl)-4-(4-pyridyl)-5H-pyrazole | FC1=CC=C(C=C1)C=1NN(CC1C1=CC=NC=C1)C1=CC=C(C=C1)S(=O)C | C21H18FN3OS
